US07579473B2
To a solution of ′N-(4-{[6,7-bis(methyloxy)quinolin-4-yl]oxy}phenyl)-N′-(4-fluorophenyl)-1-(phenylmethyl)azetidine-3,3-dicarboxamide (300 mg, 0.5 mmol) in MeOH (50 mL) was charged with Pd/C (50% wet, 10% mmol, 265 mg) and acetic acid (2 mL). The reaction mixture was subjected to hydrogenolysis condition under H2 (50 psi) on a Parr Hydrogenator for 16 hr. The reaction mixture was filtered through celite and washed with MeOH. After removal of solvent in vacuo, the crude product was purified using preparative HPLC (solvent system: MeCN/H2O/NH4OAc), affording N-(4-{[6,7-bis(methyloxy)quinolin-4-yl]oxy}phenyl)-N′-(4-fluorophenyl) azetidine-3,3-dicarboxamide (82 mg, 32% yield) as a white solid. 1HNMR (DMSO-d6): 8.46 (d, 1H), 7.84 (d, 2H), 7.70 (m, 2H), 7.50 (s, 1H), 7.40 (s, 1H), 7.24 (d, 2H), 7.20 (t, 2H), 6.44 (d, 1H), 4.03 (s, 4H), 3.95 (s, 6H), 1.90 (s, 3H, acetate salt). LCMS (POS): 517.3 (M+H).

reactant | N-(4-{[6,7-bis(methyloxy)quinolin-4-yl]oxy}phenyl)-N′-(4-fluorophenyl)-1-(phenylmethyl)azetidine-3,3-dicarboxamide | 0.5 mmol, 300 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)NC(=O)C1(CN(C1)CC1=CC=CC=C1)C(=O)NC1=CC=C(C=C1)F | C35H31FN4O5
reactant | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
solvent | MeOH | 50 mL | CO | CH4O
catalyst | Pd/C | 265 mg | [Pd] | Pd
product | N-(4-{[6,7-bis(methyloxy)quinolin-4-yl]oxy}phenyl)-N′-(4-fluorophenyl) azetidine-3,3-dicarboxamide | 82 mg, 32% yield | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)NC(=O)C1(CNC1)C(=O)NC1=CC=C(C=C1)F | C28H25FN4O5
